US04076732
Preparation 2-[7-(2-furyl)-7-hydroxyheptyl]-4,4,6-trimethyl-5,6-dihydro-1,3-oxazine
To a stirred suspension of 0.61g (25 mg. atom) of magnesium in 30 ml of ether is added 1.76g (11 mmol) of bromine dropwise during 20 min. at 15°-20° C. After 15 min. the mixture is treated dropwise with a solution of 2.90g (10 mmol) of 2-(6-bromohexyl)-4,4,6-trimethyl-5,6-dihydro-1,3-oxazine [J. Org. Chem., 38, 36(1973)] in 5 ml of ether. The resulting mixture is stirred at ambient temperature for 3 hr. and at reflux temperature for 30 min. The mixture is cooled to 0° and treated during 20 min. with a solution of 1.15g (12 mmol) of furfural. The stirred mixture is brought to reflux temperature during 20 min., maintained at that temperature for 20 min., cooled and treated with 2.5 ml of saturated ammonium chloride. The mixture is diluted with ether and water and filtered. The organic phase is separated, washed with brine, dried over potassium carbonate, and concentrated.

reactant | magnesium | 0.61g | [Mg] | Mg
reactant | bromine | 11 mmol, 1.76g | BrBr | Br2
reactant | 2-(6-bromohexyl)-4,4,6-trimethyl-5,6-dihydro-1,3-oxazine | 10 mmol, 2.90g | BrCCCCCCC=1OC(CC(N1)(C)C)C | C13H24BrNO
reactant | furfural | 12 mmol, 1.15g | C(C1=CC=CO1)=O | C5H4O2
reactant | ammonium chloride | 2.5 ml | [Cl-].[NH4+]
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-[7-(2-furyl)-7-hydroxyheptyl]-4,4,6-trimethyl-5,6-dihydro-1,3-oxazine | O1C(=CC=C1)C(CCCCCCC=1OC(CC(N1)(C)C)C)O | C18H29NO3
